US06500247B1
14 parts of cyanuric fluoride are added dropwise to a neutral solution of 60 parts of the copper complex of 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxy-benzenesulfonic acid and 5 parts of disodium hydrogen phosphate in 500 parts of at a temperature below 2° C., the pH being kept constant by addition of sodium hydroxide solution. A solution of 5-[4,6-difluoro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]4-hydroxybenzenesulfonic acid is obtained.

reactant | cyanuric fluoride | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxy-benzenesulfonic acid | NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C20H17N5O9S2
reactant | disodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-[4,6-difluoro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]4-hydroxybenzenesulfonic acid | FC1=NC(=NC(=N1)F)NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C23H16F2N8O9S2
